US09120788B2
Step 1. Synthesis of ethyl 3-(4-cyano-3-fluorophenyl)-3H-imidazo[4,5-b]pyridine-2-carboxylate (C16)
To a 0° C. solution of 4-[(3-aminopyridin-2-yl)amino]-2-fluorobenzonitrile (C15) (300 mg, 1.31 mmol) and triethylamine (270 mg, 2.67 mmol) in dichloromethane (20 mL) was added ethyl chloro(oxo)acetate (220 mg, 1.61 mmol), and the solution was stirred at 0° C. for 2 hours. After addition of water (20 mL), the mixture was extracted with dichloromethane (3×20 mL); the combined organic layers were washed with saturated aqueous sodium chloride solution (20 mL), dried over sodium sulfate, filtered, concentrated under reduced pressure and purified by preparative thin layer chromatography on silica gel (Eluent: 10:1 dichloromethane/methanol) to afford the product as a yellow solid. Yield: 40 mg, 0.13 mmol, 10%. 1H NMR (400 MHz, CDCl3), characteristic peaks: δ 8.55 (d, J=5 Hz, 1H), 4.46 (q, J=7 Hz, 2H), 1.43 (t, J=7 Hz, 3H).

reactant | 4-[(3-aminopyridin-2-yl)amino]-2-fluorobenzonitrile | 1.31 mmol, 300 mg | NC=1C(=NC=CC1)NC1=CC(=C(C#N)C=C1)F | C12H9FN4
reactant | triethylamine | 2.67 mmol, 270 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloro(oxo)acetate | 1.61 mmol, 220 mg | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | ethyl 3-(4-cyano-3-fluorophenyl)-3H-imidazo[4,5-b]pyridine-2-carboxylate | C(#N)C1=C(C=C(C=C1)N1C(=NC=2C1=NC=CC2)C(=O)OCC)F | C16H11FN4O2
